US04898945
Part D. Preparation of Diethyl (2,5-dimethyl-6-fluoro- 1,2,3,4-tetrahydro-1-quinolinyl)methylenemalonate
3350 g (18.7 mole) of 2,5-dimethyl-6-fluoro-1,2,3,4-tetrahydroquinoline and 4445.7 g (20.6 mole) of diethyl ethoxymethylenemalonate were combined and heated to 110° C. The ethanol was removed by atmospheric distillation initially and then through vacuum distillation when the reaction temperature reached 150° C. The resulting material, diethyl (2,5-dimethyl-6-fluoro-1,2,3,4-tetrahydro-1-quinolinyl)methylenemalonate, was used directly in the next step.

reactant | 2,5-dimethyl-6-fluoro-1,2,3,4-tetrahydroquinoline | 18.7 mole, 3350 g | CC1NC2=CC=C(C(=C2CC1)C)F | C11H14FN
reactant | diethyl ethoxymethylenemalonate | 20.6 mole, 4445.7 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | Diethyl (2,5-dimethyl-6-fluoro- 1,2,3,4-tetrahydro-1-quinolinyl)methylenemalonate | CC1N(C2=CC=C(C(=C2CC1)C)F)C=C(C(=O)OCC)C(=O)OCC | C19H24FNO4
